US08247403B2
(2) 8-phenyl-2,3,4,5-tetrahydro-1,4-benzoxazepine hydrochloride
A mixture of tert-butyl 8-phenyl-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate (180 mg, 0.553 mmol), ethyl acetate (1 ml) and 4N hydrogen chloride-ethyl acetate solution (5 ml) was stirred for 1 hr at room temperature, and the solvent was evaporated under reduced pressure. The residue was recrystallized from a mixed solvent of methanol and ether to give the desired product (131 mg, 90.3%) as a solid.

reactant | tert-butyl 8-phenyl-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate | 0.553 mmol, 180 mg | C1(=CC=CC=C1)C1=CC2=C(CN(CCO2)C(=O)OC(C)(C)C)C=C1 | C20H23NO3
reactant | hydrogen chloride-ethyl acetate | 4N, 5 ml | C(C)(=O)OCC.Cl
solvent | ethyl acetate | 1 ml | C(C)(=O)OCC | C4H8O2
product | 8-phenyl-2,3,4,5-tetrahydro-1,4-benzoxazepine hydrochloride | 131 mg, 90.3% | Cl.C1(=CC=CC=C1)C1=CC2=C(CNCCO2)C=C1 | InChI=1S/C15H15NO.ClH/c1-2-4-12(5-3-1)13-6-7-14-11-16-8-9-17-15(14)10-13;/h1-7,10,16H,8-9,11H2;1H
